US07279486B2
Step 1. 1-Methyl-1,3-dihydro-2,1-benzisothiazole 2,2-dioxide
A mixture of 1,3-dihydro-2,1-benzisothiazole 2,2-dioxide (J. Heterocyclic Chem. 1986, 23, 1645., 401 mg, 2.37 mmol), methyl iodide (0.6 mL, 9.48 mmol) and potassium carbonate (328 mg, 2.37 mmol) in N,N-dimethylformamide (7 mL) was stirred for 4 h at room temperature. The reaction mixture was diluted with toluene/ethyl acetate (1/3), then washed with water for two times, and then the organic layer was washed with brine, dried over sodium sulfate, and evaporated. The residue was purified by preparative thin layer chromatography on silica gel developing with hexane/ethyl acetate (2/1) to afford 272 mg (63%) of the title compound as a slight brown syrup:

reactant | 1,3-dihydro-2,1-benzisothiazole 2,2-dioxide | 2.37 mmol, 401 mg | N1S(CC2=C1C=CC=C2)(=O)=O | C7H7NO2S
reactant | methyl iodide | 9.48 mmol, 0.6 mL | CI | CH3I
reactant | potassium carbonate | 2.37 mmol, 328 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | 1-Methyl-1,3-dihydro-2,1-benzisothiazole 2,2-dioxide | 272 mg, 63% | CN1S(CC2=C1C=CC=C2)(=O)=O | C8H9NO2S
